US07544835B2
3-{3-[2-(2,4-Dichlorophenoxy)ethoxy]-4-methoxyphenyl}-2-isopropoxypropanoic acid
Using 1-(2-bromoethoxy)-2,4-dichlorobenzene and ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-isopropoxypropanoate, the title compound was obtained in the same manner as described in Example 33c).

reactant | 1-(2-bromoethoxy)-2,4-dichlorobenzene | BrCCOC1=C(C=C(C=C1)Cl)Cl | C8H7BrCl2O
reactant | ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-isopropoxypropanoate | OC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C15H22O5
product | 3-{3-[2-(2,4-Dichlorophenoxy)ethoxy]-4-methoxyphenyl}-2-isopropoxypropanoic acid | ClC1=C(OCCOC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)Cl | C21H24Cl2O6
